US08309597B2
7-(4-Dimethylcarbamoyl-phenoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester
2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (0.44 g) is added to a solution of 7-(4-carboxy-phenoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester, dimethylamine (2 mol/L in tetrahydrofuran, 0.68 mL), and N-methyl-morpholine (0.41 mL) in tetrahydrofuran (20 mL) chilled in an ice bath. The cooling bath is removed and the resulting mixture is stirred at room temperature for 3 h. Then another portion of dimethylamine (2 mol/L in tetrahydrofuran, 0.70 mL) and 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (0.20 g) are added and the mixture is further stirred for another 4 h. After adding another portion of dimethylamine (2 mol/L in tetrahydrofuran, 0.30 mL), the mixture ist stirred at room temperature overnight. The mixture is concentrated and the residue is purified by chromatography on silica gel (ethyl acetate) to furnish the title compound.

reactant | 2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.44 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 7-(4-carboxy-phenoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OC1=CC=C(C=C1)C(=O)O | C24H21NO5
reactant | dimethylamine | 2 mol/L, 0.68 mL | CNC | C2H7N
reactant | N-methyl-morpholine | 0.41 mL | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 7-(4-Dimethylcarbamoyl-phenoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OC1=CC=C(C=C1)C(N(C)C)=O | C26H26N2O4
